US05643908
tert-Butyl 3-(R)-benzyloxycarbonyloctanoate
Sodium hydrogencarbonate (305 mg) and benzyl bromide (1.0 ml) were added Successively to a solution of 2-(R)-(tert-butoxycarbonylmethyl)heptanoic acid (440 mg), prepared in Referential Example 5, in 18 ml of dimethylformamide (DMF), and the resulting mixture was stirred overnight at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic extract was successively washed with water and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After the solvent had been distilled off under reduced pressure, the residue was purified by column chromatography through silica gel, using a 20:1 mixture of hexane and ethyl acetate as an eluent, to give 476 mg of the desired compound as a colorless oil.

reactant | Sodium hydrogencarbonate | 305 mg | C(O)([O-])=O.[Na+]
reactant | benzyl bromide | 1.0 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-(R)-(tert-butoxycarbonylmethyl)heptanoic acid | 440 mg | C(C)(C)(C)OC(=O)C[C@H](C(=O)O)CCCCC | C13H24O4
reactant | water | O | H2O
solvent | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 3-(R)-benzyloxycarbonyloctanoate | 476 mg | C(C1=CC=CC=C1)OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCCC | C20H30O4
